US07435837B2
Treatment of (±)-[7-(3-chloro-4-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.68 g, 1.57 mmol) with sodium azide (0.25 g, 3.92 mmol) generally according to the procedure described for Intermediate 98 gave (±)-2-(azidomethyl)-7-(3-chloro-4-fluorophenyl)-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (0.035 g, 10 wt. %) generally according to the procedure described for Example 1 afforded 0.186 g (38%) of (±)-1-[7-(3-chloro-4-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp >210° C.; Anal. calcd. for C15H13ClFNOHCl: C, 57.34; H, 4.49; N, 4.46. Found: C, 57.38; H, 4.32; N, 4.55.

reactant | (±)-[7-(3-chloro-4-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 1.57 mmol, 0.68 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=CC(=C(C=C2)F)Cl | C22H18ClFO4S
reactant | sodium azide | 3.92 mmol, 0.25 g | [N-]=[N+]=[N-].[Na+]
product | (±)-2-(azidomethyl)-7-(3-chloro-4-fluorophenyl)-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=CC=C2C2=CC(=C(C=C2)F)Cl | C15H11ClFN3O
